US08236835B2
Synthesis of N-benzyl-2-(3-(cyclopropylmethylamino)-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 5, making variation as required to use cyclopropylmethanamine in place of 2-cyclopropylethanamine to react with N-benzyl-2-(3-bromo-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide in place of 2-(3-bromo-2-oxopyrrolidin-1-yl)-N-(4-fluorobenzyl)-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 69% yield: mp 125-126° C. (diethyl ether); 1H NMR (300 MHz, CDCl3) δ 7.38-7.29 (m, 5H), 5.95 (t, J=5.5 Hz, 1H), 4.56 (d, J=5.5 Hz, 2H), 4.37-4.26 (m, 1H), 4.04-3.91 (m, 1H), 3.54-3.45 (m, 1H), 2.63 (s, 3H), 2.59-2.44 (m, 2H), 2.31-1.82 (m, 4H), 1.81-1.68 (m, 1H), 1.01-0.89 (m, 1H), 0.57-0.41 (m, 2H), 0.23-0.08 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 171.5, 162.5, 156.7, 152.2, 137.9, 128.8, 127.9, 127.7, 119.6, 58.5, 52.5, 47.6, 44.1, 26.4, 20.5, 17.4, 11.2, 3.6, 3.3; MS (ES+) m/z 399.3 (M+1).

reactant | cyclopropylmethanamine | C1(CC1)CN | C4H9N
reactant | N-benzyl-2-(3-bromo-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)Br)=O)C | C17H18BrN3O2S
product | N-benzyl-2-(3-(cyclopropylmethylamino)-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide | 69% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)NCC1CC1)=O)C | C21H26N4O2S
